US09056862B2
To a solution of 3-aminorhodanine (1.00 g) in ethanol (20 ml) were added 4-phenoxybenzaldehyde (1.47 g) and piperidine (57 mg), and the mixture was heated with reflux for 2 hr. The reaction mixture was concentrated under reduced pressure, and the residue was purified by silica gel column chromatography (eluent: chloroform) to give 3-amino-5-(4-phenoxybenzylidene)-2-thioxothiazolidin-4-one (1.52 g).

reactant | 3-aminorhodanine | 1.00 g | NN1C(SCC1=O)=S | C3H4N2OS2
reactant | 4-phenoxybenzaldehyde | 1.47 g | O(C1=CC=CC=C1)C1=CC=C(C=O)C=C1 | C13H10O2
reactant | piperidine | 57 mg | N1CCCCC1 | C5H11N
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 3-amino-5-(4-phenoxybenzylidene)-2-thioxothiazolidin-4-one | 1.52 g | NN1C(SC(C1=O)=CC1=CC=C(C=C1)OC1=CC=CC=C1)=S | C16H12N2O2S2
